US06194425B1
1,1-Dimethylethyl N-{4-[(3-nitro[1,5]naphthyridin-4-yl)amino]butyl}carbamate (42.7 g, 0.12 mole), platinum on carbon (2 g) and ethyl acetate (500 mL) were combined and then hydrogenated on a Parr apparatus at 30 psi (2.1 Kg/cm2) hydrogen pressure for 1 hour. The catalyst was removed by filtration and rinsed with ethyl acetate. The filtrate was concentrated under vacuum to provide 1,1-dimethylethyl N-{4-[(3-amino[1,5]naphthyridin-4-yl)amino]butyl}carbamate as a bright yellow-orange solid.

reactant | 1,1-Dimethylethyl N-{4-[(3-nitro[1,5]naphthyridin-4-yl)amino]butyl}carbamate | 0.12 mole, 42.7 g | [N+](=O)([O-])C=1C=NC2=CC=CN=C2C1NCCCCNC(OC(C)(C)C)=O | C17H23N5O4
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 2 g | [Pt] | Pt
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl N-{4-[(3-amino[1,5]naphthyridin-4-yl)amino]butyl}carbamate | NC=1C=NC2=CC=CN=C2C1NCCCCNC(OC(C)(C)C)=O | C17H25N5O2
